US08536179B2
To a stirred solution of tert-butyl((5-((6-bromo-1-isopropyl-3-methyl-1H-indole-4-carboxamido)methyl)-6-methoxy-4-methylpyridin-2-yl)methyl)carbamate (500 mg, 0.894 mmol) in Tetrahydrofuran (THF) (5 mL) was added 6N HCl (15 mL, 15.00 mmol). The reaction was stirred under N2 with heating at 80° C. for 18 hr. The reaction was cooled to RT and evaporated to dryness under vacuum. The remaining was purified by silica gel chromatography (Analogix, SF25-40 g, 0 to 10% (5% NH4OH in MeOH) in CH2Cl2). The pure fractions were combined and evaporated to dryness under vacuum. Dissolved with a small volume of CH2Cl2, scratched out by slowly adding hexanes, filtered, washed with hexanes and dried under vacuum to give the product N-((6-(aminomethyl)-4-methyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-6-bromo-1-isopropyl-3-methyl-1H-indole-4-carboxamide (328 mg, 0.736 mmol, 82% yield) as an off-white solid. 1H NMR (400 MHz, DMSO-d6) δ=8.26 (t, J=5.1 Hz, 1H), 7.76 (d, J=1.8 Hz, 1H), 7.33 (d, J=1.0 Hz, 1H), 7.01 (d, J=1.5 Hz, 1H), 6.01 (s, 1H), 5.77 (s, 0H), 4.74 (quin, J=6.6 Hz, 1H), 4.32 (d, J=5.1 Hz, 2H), 3.46 (s, 2H), 2.25 (s, 3H), 2.14 (s, 3H), 1.39 (d, J=6.8 Hz, 6H). MS (ES)+m/e 445.2 [M+H]+.

reactant | tert-butyl((5-((6-bromo-1-isopropyl-3-methyl-1H-indole-4-carboxamido)methyl)-6-methoxy-4-methylpyridin-2-yl)methyl)carbamate | 0.894 mmol, 500 mg | C(C)(C)(C)OC(NCC1=NC(=C(C(=C1)C)CNC(=O)C=1C=2C(=CN(C2C=C(C1)Br)C(C)C)C)OC)=O | C27H35BrN4O4
reactant | HCl | 15.00 mmol, 6N, 15 mL | Cl | ClH
solvent | Tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | N-((6-(aminomethyl)-4-methyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)-6-bromo-1-isopropyl-3-methyl-1H-indole-4-carboxamide | 0.736 mmol, 328 mg, 82% yield | NCC1=CC(=C(C(N1)=O)CNC(=O)C=1C=2C(=CN(C2C=C(C1)Br)C(C)C)C)C | C21H25BrN4O2
